US04647301
Into a solution containing 1.25 g methyl 5-hydroxy-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate and 1.40 g sodium methoxide in 50 mL absolute methanol at 50° C. is passed through a dispersion tube, chlorodifluoromethane for one hour. The mixture is cooled to 5° C. and the pH adjusted to 5 with 2N methanolic HCl. The solution is filtered and the filtrate concentrated in vacuo. The residue is extracted with 2×100 mL ether, the extracts combined, dried and concentrated. The residue is chromatographed on silica gel using ether as the eluant to give the product, analytically pure methyl 5-difluoromethoxy-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate as a white crystalline solid, mp 104°-105° C.

reactant | methyl 5-hydroxy-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate | 1.25 g | OC=1C=NC(=C(C(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O | C14H17N3O4
reactant | sodium methoxide | 1.40 g | C[O-].[Na+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | methyl 5-difluoromethoxy-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate | FC(OC=1C=NC(=C(C(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O)F | C15H17F2N3O4
